US09216994B2
Benzo[1,2-b;4,5-b′]dithiophene-4,4,8,8-tetracarboxylic acid tetraethyl ester (2 g) was suspended in methanol (60 g) and KOH (7.5 g) under inert atmosphere and heated to reflux for 5 hours. The reaction mixture was acidified with 2M HCl (62.5 g) and the yellow precipitate filtered off, washed with water and dried in vacuum to yield 2,3-dihydro-benzo[1,2-b;4,5-b′]dithiophene-4,8-dicarboxylic acid in quantitative yield.

reactant | Benzo[1,2-b;4,5-b′]dithiophene-4,4,8,8-tetracarboxylic acid tetraethyl ester | 2 g | C(C)OC(=O)C1(C2=C(SC=C2)C(C2=C1SC=C2)(C(=O)OCC)C(=O)OCC)C(=O)OCC | C22H24O8S2
reactant | KOH | 7.5 g | [OH-].[K+]
reactant | HCl | 2M, 62.5 g | Cl | ClH
solvent | methanol | 60 g | CO | CH4O
product | 2,3-dihydro-benzo[1,2-b;4,5-b′]dithiophene-4,8-dicarboxylic acid | quantitative yield | S1C2=C(CC1)C(=C1SC=CC1=C2C(=O)O)C(=O)O | C12H8O4S2
